US09428483B2
A solution of a mixture of (1S,2S,3S,5R,6S)-2-(((allyloxy)carbonyl)amino)-3-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid (A-1-1, 1.41 g), allyl alcohol (336 μL), N,N-diisopropylethylamine (837 μL) and N,N-dimethylaminopyridine (60 mg) in chloroform (30 mL) was cooled to 0° C. To this solution, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (837 mg) was added, and then the mixture was heated to room temperature and stirred for 2 days. To the reaction solution, chloroform was added, and the organic layer was washed twice with 0.25 mol/L hydrochloric acid, once with water, and once with brine, sequentially. After the organic layer was dried over anhydrous magnesium sulfate, the insoluble was filtered and the filtrate was concentrated under reduced pressure to give (1S,2S,3S,5R,6S)-6-((allyloxy)carbonyl) 2-(((allyloxy)carbonyl)amino)-3-fluorobicyclo[3.1.0]hexane-2-carboxylic acid (B-1-1, 1.30 g) as a colorless amorphous.

reactant | (1S,2S,3S,5R,6S)-2-(((allyloxy)carbonyl)amino)-3-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 1.41 g | C(C=C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2C[C@@H]1F)C(=O)O)C(=O)O | C12H14FNO6
reactant | allyl alcohol | 336 μL | C(C=C)O | C3H6O
reactant | N,N-diisopropylethylamine | 837 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 837 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | (1S,2S,3S,5R,6S)-6-((allyloxy)carbonyl) 2-(((allyloxy)carbonyl)amino)-3-fluorobicyclo[3.1.0]hexane-2-carboxylic acid | 1.30 g | C(C=C)OC(=O)[C@H]1[C@@H]2C[C@@H]([C@]([C@H]12)(C(=O)O)NC(=O)OCC=C)F | C15H18FNO6
